US07423158B2
A mixture of sodium hydride [60% in oil] (343, mg, 8.6 mmol) and THF at −5° C. was treated via a syringe with a solution of 2-fluoroethanol in THF over a 1 min. period, stirred for 2 min., warmed to room temperature, stirred for 15 min. at room temperature, treated with 3-bromobenzylbromide (2.5 g, 11.7 mmol), stirred for 1 h, poured into saturated ammonium chloride and extracted with ether. The extracts were combined, washed sequentially with water and brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, 20:1 hexane/ ethyl acetate as eluent, to afford 1-bromo-3-(2-fluoroethoxymethyl)benzene as a yellow oil, 1 g (58% yield), 1H NMR (DMSO-d6) δ 3.6 (dxt, 2H); 4.5 (dxt, 2H); 4.4 (s, 2 H); 7.3 (m, 2H); 7.5 (m, 2H); MS [(+)ESI] m/z 219 [M−H]+.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-fluoroethanol | FCCO | C2H5FO
reactant | 3-bromobenzylbromide | 11.7 mmol, 2.5 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-bromo-3-(2-fluoroethoxymethyl)benzene | 58% yield | BrC1=CC(=CC=C1)COCCF | C9H10BrFO
